US09381191B2
141 mg (0.358 mmol) of 2-((3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo[1,2-a]-pyridin-2-yl)methylthio)acetic acid were dissolved in 5 ml of dichloromethane followed by the addition of 0.094 ml (1.073 mmol) of oxalyl chloride and a drop of DMF. The solvent was stirred at r.t. for 2 h and then the solvent was evaporated in vacuo. The obtained residue was taken up in 5 ml of tetrahydrofurane, 99 mg (0.715 mmol) of sodium carbonate were added followed by the addition of 40.4 mg (0.429 mmol) of 3-aminopyridine. The solution was stirred at r.t. for 16 h. The mixture was then poured onto 15 ml of water, extracted 3 times with 15 ml of ethyl acetate, the combined organic phases were washed with 20 ml of brine and then were dried on Na2SO4 which was then removed by filtration and the obtained filtrate was concentrated in vacuo. The crude residue was purified by flash chromatography on a silica gel cartridge (eluent: dichloromethane/methanol gradient, 100% to 90% of dichloromethane, v/v). 89 mg of N-(pyridin-3-yl)-2-((3-((3-(trifluoromethyl)-phenyl)-ethynyl)imidazo[1,2-a]pyridin-2-yl)methylthio) acetamide were obtained as a pale yellow solid. LC-MS: m/z=467 (MH+) UV purity at 254 nm=95%. 1H NMR (300 MHz, DMSO) δ 10.13 (s, 1H), 8.76 (dd, J=16.4, 4.5 Hz, 2H), 8.24 (dd, J=4.7, 1.5 Hz, 1H), 8.07 (ddd, J=8.3, 2.5, 1.5 Hz, 1H), 7.79-7.60 (m, 3H), 7.60-7.35 (m, 3H), 7.30 (dd, J=8.3, 4.7 Hz, 1H), 7.16 (td, J=6.8, 1.1 Hz, 1H), 4.90 (s, 2H), 4.26 (s, 2H).

reactant | 2-((3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo[1,2-a]-pyridin-2-yl)methylthio)acetic acid | 0.358 mmol, 141 mg | FC(C=1C=C(C=CC1)C#CC1=C(N=C2N1C=CC=C2)CSCC(=O)O)(F)F | C19H13F3N2O2S
reactant | oxalyl chloride | 1.073 mmol, 0.094 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium carbonate | 0.715 mmol, 99 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-aminopyridine | 0.429 mmol, 40.4 mg | NC=1C=NC=CC1 | C5H6N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 15 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(pyridin-3-yl)-2-((3-((3-(trifluoromethyl)-phenyl)-ethynyl)imidazo[1,2-a]pyridin-2-yl)methylthio) acetamide | 89 mg | N1=CC(=CC=C1)NC(CSCC=1N=C2N(C=CC=C2)C1C#CC1=CC(=CC=C1)C(F)(F)F)=O | C24H17F3N4OS
